US07816386B2
Preparation of (2E)-N-hydroxy-3-{3-[(2-morpholin-4-ylethoxyimino)methyl]-phenyl}-acryl-amide hydrochloride (ST3576)
Compound ST3576 was obtained (0.931 mg, 98% yield) after acid hydrolysis of (2E)-3-{3-[(2-Morpholin-4-yl-ethoxyimino)-methyl]-phenyl}-N-trityloxy-acrylamide obtained (1.500 g, 2.67 mmol, 65% yield) by reaction of intermediate C (1.400 g, 4.12 mmol) with ethyl chloroformate (472 μL, 4.94 mmol) and TEA (746 μL, 5.35 mmol) in 5 mL of anhydrous THF (according to procedure described in Mai A., Pezzi R. et all. J. Med. Chem. 2005, 48, 3344 and in Mai A., Pezzi R. et all. J. Med. Chem. 2003, 46, 4826).

reactant | (2E)-3-{3-[(2-Morpholin-4-yl-ethoxyimino)-methyl]-phenyl}-N-trityloxy-acrylamide | N1(CCOCC1)CCON=CC=1C=C(C=CC1)/C=C/C(=O)NOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H35N3O4
reactant | ethyl chloroformate | 4.94 mmol, 472 μL | ClC(=O)OCC | C3H5ClO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (2E)-N-hydroxy-3-{3-[(2-morpholin-4-ylethoxyimino)methyl]-phenyl}-acryl-amide hydrochloride | 98% yield | Cl.ONC(\C=C\C1=CC(=CC=C1)C=NOCCN1CCOCC1)=O | InChI=1S/C16H21N3O4.ClH/c20-16(18-21)5-4-14-2-1-3-15(12-14)13-17-23-11-8-19-6-9-22-10-7-19;/h1-5,12-13,21H,6-11H2,(H,18,20);1H/b5-4+,17-13?;
